US06307056B1
A solution of 3-formylphenylboronic acid (3.35 g, 22.34 mmol) (Lancaster) in a 1:1 mixture of distilled water-acetone (64 mL) was slowly treated with potassium permanganate (6.00 g, 37.98 mmol) in small portions. The dark reaction mixture was stirred at room temperature for 1 h and then filtered through a pad of Celite®. The pad of Celite® was washed with 200 mL of distilled water then washed with 200 mL of acetone. The filtrate was concentrated in vacuo to a volume of approximately 200 mL. The resulting aqueous filtrate was treated with concentrated hydrochloric acid until pH=1 and then cooled using an ice/water bath. The desired product precipitated upon cooling. The solid was filtered and washed well with cold distilled water to provide 3-carboxyphenylboronic acid as a cream-colored solid which was used without further purification. (Yield 1.95 g, 53%; mp 232-234° C.).

reactant | 3-formylphenylboronic acid | 22.34 mmol, 3.35 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | potassium permanganate | 37.98 mmol, 6.00 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water acetone | 64 mL | O.CC(=O)C
product | 3-carboxyphenylboronic acid | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
